US06638926B2
[2-(2-Chloro-phenyl)-pyrido[3,4-d]pyrimidin-4-yl]-(1H-indazol-3-yl)-amine (II-217)
Prepared from 4-Chloro-2-(2-chloro-phenyl)-pyrido[3,4-d]pyrimidine (100 mg, 0.36 mmol) and 1H-indazol-3-ylamine (88 mg, 0.66 mmol). Purification by preparative HPLC afforded the title compound as a yellow, di-TFA salt (72 mg, 33% yield). HPLC-Method A, Rt 3.21 min; 1H NMR (DMSO, 500 MHz): δ12.95 (1H, s), 10.90 (1H, bs), 9.25 (1H, s), 8.75 (1H, m), 8.55 (1H, m), 7.65 (1H, m), 7.55 (1H, m), 7.50-7.30 (5H, m), 7.00(1H, m); MS (m/z), MH+373.1.

reactant | 4-Chloro-2-(2-chloro-phenyl)-pyrido[3,4-d]pyrimidine | 0.36 mmol, 100 mg | ClC=1C2=C(N=C(N1)C1=C(C=CC=C1)Cl)C=NC=C2 | C13H7Cl2N3
reactant | 1H-indazol-3-ylamine | 0.66 mmol, 88 mg | N1N=C(C2=CC=CC=C12)N | C7H7N3
product | [2-(2-Chloro-phenyl)-pyrido[3,4-d]pyrimidin-4-yl]-(1H-indazol-3-yl)-amine | ClC1=C(C=CC=C1)C=1N=C(C2=C(N1)C=NC=C2)NC2=NNC1=CC=CC=C21 | C20H13ClN6
